US04906621
A mixture of 348 g mg of 3-phosphonopyridine-2-carboxylic acid hydrochloride and 100 mg of Adams catalyst in dilute aqueous acetic acid is hydrogenated at 3 atmospheres pressure and room temperature to yield 3-phosphonopiperidine-2-carboxylic acid, mp 150° dec.

reactant | 3-phosphonopyridine-2-carboxylic acid hydrochloride | Cl.P(=O)(O)(O)C=1C(=NC=CC1)C(=O)O
catalyst | Adams catalyst | 100 mg | O=[Pt]=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-phosphonopiperidine-2-carboxylic acid | P(=O)(O)(O)C1C(NCCC1)C(=O)O | C6H12NO5P
